* CTLE  corner=tt vdd=1.8 temp=27.0C analysis=op models=sky130
.temp 27.0
.param vdd=1.8
Vdd vdd 0 {vdd}
Vcm cm 0 1.296
Vinp inp cm AC 0.5 SIN(0 0.05 100e6)
Vinn inn cm AC -0.5 SIN(0 -0.05 100e6)
.lib "C:\Users\talk2.000\pdk\sky130A\libs.tech\ngspice\sky130.lib.spice" tt
XM1 outp inp sp 0 sky130_fd_pr__nfet_01v8 L=0.8121 W=100.0000 nf=1 m=1
XM2 outn inn sn 0 sky130_fd_pr__nfet_01v8 L=0.8121 W=100.0000 nf=1 m=1
Iref vdd nbias 0.0002407213608909165
XMref nbias nbias 0 0 sky130_fd_pr__nfet_01v8 L=2.0 W=38.5154 nf=1 m=1
XMtp sp nbias 0 0 sky130_fd_pr__nfet_01v8 L=2.0 W=38.5154 nf=1 m=1
XMtn sn nbias 0 0 sky130_fd_pr__nfet_01v8 L=2.0 W=38.5154 nf=1 m=1
Rs sp sn 4177.121937274933
Cs sp sn 2.775346810162114e-13
Rlp vdd outp 1897.845470905304
Rln vdd outn 1897.845470905304
Clp outp 0 3e-14
Cln outn 0 3e-14
.op
.end
